### PR TITLE
[stdlib] [List] Additional statements about List.repeat

### PR DESCRIPTION
**Pull request by olaure01**
Add some lemmas about `List.repeat`.
**Kind:** feature

- [x] Entry added in the changelog (see https://github.com/coq/coq/tree/master/doc/changelog#unreleased-changelog for details).

### CODE REVIEW

File: theories/Sorting/Permutation.v [hunk 1]
```diff
@@ -522,6 +522,18 @@ Proof.
   repeat red; eauto using Permutation_NoDup.
 Qed.
 
+Lemma Permutation_repeat x n l :
+  Permutation l (repeat x n) -> l = repeat x n.
+Proof.
+  revert n; induction l as [ | y l' ] ; simpl; intros n HP; auto.
```
Comment (anton-trunov) [inline theories/Sorting/Permutation.v:528]:
```suggestion
  revert n; induction l as [ | y l IHl] ; simpl; intros n HP; auto.
```

File: theories/Sorting/Permutation.v [hunk 2]
```diff
@@ -522,6 +522,18 @@ Proof.
...
+  - now apply Permutation_nil in HP; inversion HP.
+  - assert (y = x) as Heq by (now apply repeat_spec with n, (Permutation_in _ HP); left); subst.
+    destruct n; simpl; simpl in HP.
+    + symmetry in HP; apply Permutation_nil in HP; inversion HP.
+    + f_equal; apply IHl'.
```
Comment (anton-trunov) [inline theories/Sorting/Permutation.v:533]:
```suggestion
    + f_equal; apply IHl.
```

File: theories/Lists/List.v [hunk 3]
```diff
@@ -3157,6 +3157,45 @@ Section Repeat.
...
+    repeat x (n + m) = repeat x n ++ repeat x m.
+  Proof.
+    induction n; simpl; auto.
+    now rewrite IHn.
+  Qed.
+
+  Lemma repeat_eq_app x n l1 l2 :
+    repeat x n = l1 ++ l2 -> repeat x (length l1) = l1 /\ repeat x (length l2) = l2.
+  Proof.
+    revert n; induction l1; simpl; intros n Hr; subst.
```
Comment (anton-trunov) [inline theories/Lists/List.v:3170]:
```suggestion
    revert n; induction l1 as [|a l1 IHl1]; simpl; intros n Hr; subst.

```

File: theories/Lists/List.v [hunk 4]
```diff
@@ -3157,6 +3157,45 @@ Section Repeat.
...
+    repeat x n = l1 ++ y :: l2 -> x = y /\ repeat x (length l1) = l1 /\ repeat x (length l2) = l2.
+  Proof.
+    intros Hr; apply repeat_eq_app in Hr as [Hr1 Hr2]; subst.
+    apply repeat_eq_cons in Hr2; intuition.
+  Qed.
+
+  Lemma Forall_eq_repeat x l :
+    Forall (eq x) l -> l = repeat x (length l).
+  Proof.
+    induction l; simpl; intros HF; auto.
```
Comment (anton-trunov) [inline theories/Lists/List.v:3194]:
```suggestion
    induction l as [|a l IHl]; simpl; intros HF; auto.

```

**Review by anton-trunov — CHANGES_REQUESTED** [review]

File: theories/Lists/List.v [hunk 5]
```diff
@@ -3157,6 +3157,45 @@ Section Repeat.
     - f_equal; apply IHn.
   Qed.
 
+  Lemma repeat_app x n m :
+    repeat x (n + m) = repeat x n ++ repeat x m.
+  Proof.
+    induction n; simpl; auto.
```
[the remark this answers is not in the document]
Comment (olaure01) [reply theories/Lists/List.v:3163]: Ok, perfect. Indeed I am usually relying on automatically generated names concerning induction hypotheses, assuming that `induction n` produces `IHn`. However you are right that it is not robust.
I do not remember this `Set Mangle Names` trick mentioned in the `Contributing Guide`. It might be interesting to have a place with such recommendations.

File: theories/Lists/List.v [hunk 6]
```diff
@@ -3157,6 +3157,47 @@ Section Repeat.
...
+  Proof.
+    induction n as [|n IHn]; simpl; auto.
+    now rewrite IHn.
+  Qed.
+
+  Lemma repeat_eq_app x n l1 l2 :
+    repeat x n = l1 ++ l2 -> repeat x (length l1) = l1 /\ repeat x (length l2) = l2.
+  Proof.
+    revert n; induction l1 as [|a l1 IHl1]; simpl; intros n Hr; subst.
+
```
Comment (anton-trunov) [inline theories/Lists/List.v:3171]: Sorry, but do you intend to keep the empty line here and one more below?

Comment (olaure01) [reply theories/Lists/List.v:3171]: I was using suggestion commit directly inside Github, which is what apparently introduced this empty line.
I am currently rebasing anyway, so let me correct it in the same time.
Thanks.

Comment (anton-trunov) [reply theories/Lists/List.v:3171]: Oh, sorry about that.

**Review by anton-trunov — APPROVED** [review]

**Comment by anton-trunov** [comment]
I'll merge on Thursday afternoon unless someone objects. Thanks.
